US04788206
As described in Example 99, (E,E)-5-(4-fluorophenyl)-2,4-decadienoic acid methyl ester (6.5 g) was saponified in a refluxing mixture of methanol (30 mL) and 2N NaOH (30 mL). After 2 hours the crude acid was isolated in the usual way and crystallized from hexane to yield 4.99 g of (E,E)-5-(4-fluorophenyl)-2,4-decadienoic acid, mp 116.5°-117.5° C.

reactant | (E,E)-5-(4-fluorophenyl)-2,4-decadienoic acid methyl ester | 6.5 g | COC(\C=C\C=C(/CCCCC)\C1=CC=C(C=C1)F)=O | C17H21FO2
reactant | NaOH | 2N, 30 mL | [OH-].[Na+]
solvent | methanol | 30 mL | CO | CH4O
product | (E,E)-5-(4-fluorophenyl)-2,4-decadienoic acid | 4.99 g | FC1=CC=C(C=C1)/C(=C/C=C/C(=O)O)/CCCCC | C16H19FO2
